US07714126B2
With a procedure similar to example 16 above, 5-methyl-2-phenyl-2H-[1,2,3]triazole-4-carboxylic acid {6-[methyl-(2,2,2-trifluoro-ethyl)-amino]-pyridin-3-yl}-amide was prepared from 5-methyl-2-phenyl-2H-[1,2,3]triazole-4-carboxylic acid and N2-methyl-N2-(2,2,2-trifluoro-ethyl)-pyridine-2,5-diamine. LCMS calcd for C18H17F3N6O (m/e) 390, obsd 391 (M+H). The NMR spectrum obtained on the sample is compatible with its structure.

reactant | 5-methyl-2-phenyl-2H-[1,2,3]triazole-4-carboxylic acid | CC=1C(=NN(N1)C1=CC=CC=C1)C(=O)O | C10H9N3O2
reactant | N2-methyl-N2-(2,2,2-trifluoro-ethyl)-pyridine-2,5-diamine | CN(C1=NC=C(C=C1)N)CC(F)(F)F | C8H10F3N3
product | 5-methyl-2-phenyl-2H-[1,2,3]triazole-4-carboxylic acid {6-[methyl-(2,2,2-trifluoro-ethyl)-amino]-pyridin-3-yl}-amide | CN(C1=CC=C(C=N1)NC(=O)C1=NN(N=C1C)C1=CC=CC=C1)CC(F)(F)F | C18H17F3N6O
